US08349826B2
33.ii. rac-1-azido-4-(tert-butyl-dimethyl-silanyloxy)-butan-2-ol
A solution of 2-[2-[[(tert-butyl)dimethylsilyl]oxy]ethyl]-oxirane (5.0 g; prepared according to WO 2007/144423) in MeOH (150 mL) was reacted with NaN3 (3.95 g) and NH4Cl (2.37 g). The reaction mixture was further stirred at 80° C. overnight. The solvent was evaporated under reduced pressure and the residue was partitioned between EA and water. The org layer was washed with brine, dried over Na2SO4 and evaporated under reduced pressure, affording a yellow oil (4.9 g, 81% yield).

reactant | 2-[2-[[(tert-butyl)dimethylsilyl]oxy]ethyl]-oxirane | 5.0 g | C(C)(C)(C)[Si](OCCC1OC1)(C)C | C10H22O2Si
reactant | NaN3 | 3.95 g | [N-]=[N+]=[N-].[Na+]
reactant | NH4Cl | 2.37 g | [NH4+].[Cl-]
solvent | MeOH | 150 mL | CO | CH4O
product | rac-1-azido-4-(tert-butyl-dimethyl-silanyloxy)-butan-2-ol | 4.9 g, 81% yield | N(=[N+]=[N-])CC(CCO[Si](C)(C)C(C)(C)C)O | C10H23N3O2Si
